US09290517B2
Step B: 6-([1,1′-biphenyl]-4-yl)-5-chloropyridine-2,3-diamine
Ammonium chloride (632 mg, 11.82 mmol) and iron (1320 mg, 23.64 mmol) were added to a stirred mixture of 6-([1,1′-biphenyl]-4-yl)-5-chloro-3-nitropyridin-2-amine (550 mg, 1.688 mmol) in water (2 ml)/Ethanol (2 mL) and the mixture was stirred at 60° C. for 3 h. The mixture was filtered through Celite™, rinsing with ethyl acetate (100 mL). Water (80 mL) was added and the mixture was extracted with ethyl acetate (2×100 mL). The combined organic fractions were washed with brine (saturated, 80 mL), dried (Na2SO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel Biotage™ 40S, eluting with 0-60% EtOAc/hexane to give title compound. LC-MS: calculated for C17H14ClN3 295.09 observed m/e: 296.12 (M+H)+ (Rt 1.09/2 min).

reactant | Ammonium chloride | 11.82 mmol, 632 mg | [Cl-].[NH4+]
reactant | 6-([1,1′-biphenyl]-4-yl)-5-chloro-3-nitropyridin-2-amine | 1.688 mmol, 550 mg | C1(=CC=C(C=C1)C1=C(C=C(C(=N1)N)[N+](=O)[O-])Cl)C1=CC=CC=C1 | C17H12ClN3O2
reactant | Ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | iron | 23.64 mmol, 1320 mg | [Fe] | Fe
product | 6-([1,1′-biphenyl]-4-yl)-5-chloropyridine-2,3-diamine | C1(=CC=C(C=C1)C1=C(C=C(C(=N1)N)N)Cl)C1=CC=CC=C1 | C17H14ClN3
